US06288091B1
N-{4-(2-Amino-4-thiazolyl)phenyl}-2-{(4-morpholinylsulfonyl)-(phenylmethyl)amino}acetamide (1: R1, R2 and R3=H, R4=PhCH2, R5=4-morpholinylsulfonyl and Q=valance bond)
4-Morpholinesulfonyl chloride (213 mg, 1.15 mmol) was added (5 min) to an ice-cold solution of N-{4-(2-amino-4-thiazolyl)phenyl}-2-{(phenylmethyl)-amino}acetamide.2HCl (450 mg, 1.09 mmol), the corresponding free base has been described in example 2) and Et3N (443 mg, 4.38 mmol) in CH2Cl2 (10.9 mL). The reaction mixture was allowed to warm to room temperature and DMAP (14.0 mg, 0.11 mmol) was added. After standing for 37 h at room temperature, the mixture was dissolved in EtOAc (125 mL). The solution was washed successively with saturated aqueous NaHCO3 (50 mL) and brine (50 mL), dried (MgSO4) and concentrated under reduced pressure. Purification of the resulting residue by flash chromatography (SiO2, EtOAc) gave the title compound (200 mg, 38% yield) as a white solid: M.p. 193-194°; 1H NMR (400 MHz, DMSO-d6) δ10.02 (s, 1H), 7.73 (d, J=8.7 Hz, 2H), 7.55 (d, J=8.7 Hz, 2H), 7.30-7.41 (m, 5H), 7.01 (s, 2H), 6.89 (s, 1H), 4.59 (s, 2H), 3.91 (s, 2H), 3.58 (t, J=4.6 Hz, 4H), 3.18 (t, J=4.6 Hz, 4H); MS (FAB) m/z 488 (MH)+; Anal. Calcd for C22H25N5O4S2: C, 54.19; H, 5.17; N, 14.36. Found: C, 53.63; H, 5.07; N, 14.34.

reactant | 4-Morpholinesulfonyl chloride | 1.15 mmol, 213 mg | N1(CCOCC1)S(=O)(=O)Cl | C4H8ClNO3S
reactant | N-{4-(2-amino-4-thiazolyl)phenyl}-2-{(phenylmethyl)-amino}acetamide | NC=1SC=C(N1)C1=CC=C(C=C1)NC(CNCC1=CC=CC=C1)=O | C18H18N4OS
reactant | Et3N | 4.38 mmol, 443 mg | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 10.9 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.11 mmol, 14.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | 125 mL | CCOC(=O)C | C4H8O2
product | N-{4-(2-Amino-4-thiazolyl)phenyl}-2-{(4-morpholinylsulfonyl)-(phenylmethyl)amino}acetamide | 200 mg, 38% yield | NC=1SC=C(N1)C1=CC=C(C=C1)NC(CN(CC1=CC=CC=C1)S(=O)(=O)N1CCOCC1)=O | C22H25N5O4S2
